US06228872B1
(S)-2-(2-Methoxycarbonylvinyl)-piperidine-1-carboxylic acid t-butyl ester
A stirred solution of (S)-N-(t-butoxycarbonyl)-pipecolinic acid methyl ester (2.04 g, 8.39 mmol) in methylene chloride (75 mL) at −78° C. under nitrogen was treated with diisobutylaluminum hydride (1.0 M in toluene, 14.2mL, 14.2 mmol). After 1.25 h a second aliquot of diisobutylaluminum hydride (2.00 mL, 2.00 mmol) was added. The mixture was stirred for an additional 30 min. and then quenched by the addition of a 20% aqueous Rochelle's salt solution (100 mL) followed by vigorous stirring for 1 h. The aqueous layer was extracted with methylene chloride and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The crude aldehyde was dissolved in methylene chloride (100 mL) and treated with methyl (triphenylphosphoranylidene)acetate (4.00 g, 12.0 mmol). After 15 hours (h) the reaction mixture was concentrated and purified by flash chromatography to give the desired product (1.46 g, 65%).

reactant | (S)-N-(t-butoxycarbonyl)-pipecolinic acid methyl ester | 8.39 mmol, 2.04 g | COC([C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C12H21NO4
reactant | diisobutylaluminum hydride | 14.2 mmol, 1.0 M, 14.2mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 2.00 mmol, 2.00 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl (triphenylphosphoranylidene)acetate | 12.0 mmol, 4.00 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(2-Methoxycarbonylvinyl)-piperidine-1-carboxylic acid t-butyl ester | 1.46 g, 65% | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C=CC(=O)OC | C14H23NO4
